US06831083B2
Synthesis of 3,3a-dihydro-2H,4H-[1]-benzopyrano[4,3-c]pyrazole
Hydrazine monohydrate (7.2 g) was dissolved in ethanol (10 ml). Thereto was dropwise added a solution of 3-(N,N-dimethylaminomethyl)-4-chromanone (6.7 g) dissolved in ethanol (10 ml) in a nitrogen atmosphere at room temperature. The resulting mixture was refluxed for 4 hours with heating. The reaction mixture was poured into ice water. Extraction with chloroform was conducted, followed by drying and concentration, to obtain 6 g of a title compound.

reactant | Hydrazine monohydrate | 7.2 g | O.NN
reactant | 3-(N,N-dimethylaminomethyl)-4-chromanone | 6.7 g | CN(C)CC1COC2=CC=CC=C2C1=O | C12H15NO2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3,3a-dihydro-2H,4H-[1]-benzopyrano[4,3-c]pyrazole | 6 g | N=1NCC2C1C1=C(OC2)C=CC=C1 | C10H10N2O
